US08097628B2
(d) Title compound: 5-Bromo-6-methyl-3-pyridinecarbaldehyde
To a solution of (5-bromo-6-methyl-3-pyridinyl)methanol (56 mg, 0.277 mmol) in DCM (2 ml), MnO2 (193 mg, 2.217 mmol) was added. After stirring overnight, an excess of MnO2 (120 mg, 1.386 mmol) was added and then the mixture was stirred for 3 h more. The reaction mixture was filtrated and evaporated to afford 30 mg of title compound pure enough to be used in the next step.

reactant | (5-bromo-6-methyl-3-pyridinyl)methanol | 0.277 mmol, 56 mg | BrC=1C=C(C=NC1C)CO | C7H8BrNO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 2.217 mmol, 193 mg | O=[Mn]=O
catalyst | MnO2 | 1.386 mmol, 120 mg | O=[Mn]=O
product | 5-Bromo-6-methyl-3-pyridinecarbaldehyde | 30 mg | BrC=1C=C(C=NC1C)C=O | C7H6BrNO
